US07795423B2
N-Dansyl (3 aminopropanoyl) benzenesulfonyl azid
To 152 mg (0.8 mmol) of para-amino-benzenesulfonyl azide dissolved in 5 mL dimethylformamide was added 0.11 mL (6 mmol) triethylamine, then 0.5 mmol N-Dansyl 3 aminopropanoyl chloride dissolved in 10 mL dimethylformamide was added dropwise. The mixture was stirred under argon for 24 hrs. The solvent was evaporated, the remaining oil was purified by chromatography on silica (Eluent Toluol/Aceticacidethylester 1:1). The fractions containing the product were collected and the solution was evaporated.

reactant | para-amino-benzenesulfonyl azide | 0.8 mmol, 152 mg | NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C6H6N4O2S
reactant | triethylamine | 6 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | N-Dansyl 3 aminopropanoyl chloride | 0.5 mmol | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)NCCC(=O)Cl | C15H17ClN2O3S
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-Dansyl (3 aminopropanoyl) benzenesulfonyl azid | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)NCCC(=O)C1=C(C=CC=C1)S(=O)(=O)N=[N+]=[N-] | C21H21N5O5S2
